US04908376
2,3-Dihydro-2-(4,5-dihydro-lH-imidazol-2-yl)-1H-indole
The starting material is prepared as follows: To a stirred suspension of 12.0 g of N-acetyl indoline-2-carboxylic acid in 100 ml of tetrahydrofuran are added 11.5 g of carbonyl diimidazole. After 30 min., 15 ml of concentrated ammonium hydroxide are added. The crystalline amide is filtered, m.p. 245°-250°.

reactant | N-acetyl indoline-2-carboxylic acid | 12.0 g | C(C)(=O)N1C(CC2=CC=CC=C12)C(=O)O | C11H11NO3
reactant | carbonyl diimidazole | 11.5 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2-(4,5-dihydro-lH-imidazol-2-yl)-1H-indole | N1C(=NCC1)C1NC2=CC=CC=C2C1 | C11H13N3
